US05302720
Reaction of 5-methyl-2-biphenylylisothiocyanate (7.5 g) in ethanol (20 ml) with 25% aqueous ammonia solution (60 ml) at ambient temperature for 2 hours yielded N-(5-methyl-2-biphenylyl)thiourea as a colourless solid (m.p. 175°-177° C.).

reactant | 5-methyl-2-biphenylylisothiocyanate | 7.5 g | CC1=CC=C(C(=C1)C1=CC=CC=C1)N=C=S | C14H11NS
reactant | ammonia | 60 ml | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(5-methyl-2-biphenylyl)thiourea | CC=1C=CC(=C(C1)C1=CC=CC=C1)NC(=S)N | C14H14N2S
